US06395733B1
4-(3-Ethynyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic Acid Methyl Ester Hydrochloride
To 4-(3-ethynyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (0.108 g, 0.39 mmol) in dry methylene chloride (2 ml) was added a solution of oxalyl chloride (0.17 ml, 1.9 mmol) in dry methylene chloride (4 ml) followed by 1 drop of dry DMF. The suspension was stirred at ambient temperature for 1 hour, then concentrated in vacuo. To the resulting solid was added dry acetone (2 ml) and dry methanol (1 ml). The solution was stirred at ambient temperature for 15 hours, then concentrated in vacuo. The residue was diluted with ethyl acetate and water, and the solid filtered and dried in vacuo to afford the title compound as a tan powder (40 mg, 35%). TS-MS: 293 (MH+); anal. RP18-HPLC RT: min.

reactant | 4-(3-ethynyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 0.39 mmol, 0.108 g | C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2C(=O)O | C15H10N4O2
reactant | oxalyl chloride | 1.9 mmol, 0.17 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 4-(3-Ethynyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic Acid Methyl Ester Hydrochloride | 40 mg, 35% | Cl.COC(=O)C1=CNC=2N=CN=C(C21)NC2=CC(=CC=C2)C#C | InChI=1S/C16H12N4O2.ClH/c1-3-10-5-4-6-11(7-10)20-15-13-12(16(21)22-2)8-17-14(13)18-9-19-15;/h1,4-9H,2H3,(H2,17,18,19,20);1H
